US08003006B2
8.2 g of 1-((trans-4-(formylmethyl)cyclohexyl)methoxy)-2,3-difluorobenzene was dissolved in 50 mL of THF, and 12.6 g of methoxymethyl triphenylphosphonium chloride was added thereto. To this solution, the THF (20 mL) solution containing 4.1 g of potassium-t-butoxide was added dropwise at an internal temperature of 5 to 20° C., and the solution was stirred for 30 min. 10 mL of water was added thereto, and the solvent was evaporated under reduced pressure. Hexane and 50% methanol aqueous solution were added thereto, and the organic layer was fractioned. This organic layer was washed with 50% methanol aqueous solution and saturated saline, and dried over silicagel. After evaporating the solvent under reduced pressure, the residue was dissolved in 50 mL of THF, and 50 mL of 10% hydrochloric acid was added thereto, followed by reflux with heating for 2 hours. To the solution, water and ethyl acetate were added, and the organic layer was fractioned, washed with saturated saline 3 times, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, to thereby obtain 7.0 g of 1-((trans-4-(2-formylethyl)cyclohexyl)methoxy)-2,3-difluorobenzene.

reactant | 1-((trans-4-(formylmethyl)cyclohexyl)methoxy)-2,3-difluorobenzene | 8.2 g | C(=O)C[C@@H]1CC[C@H](CC1)COC1=C(C(=CC=C1)F)F | C15H18F2O2
reactant | methoxymethyl triphenylphosphonium chloride | 12.6 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium-t-butoxide | 4.1 g | CC(C)([O-])C.[K+]
reactant | water | 10 mL | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-((trans-4-(2-formylethyl)cyclohexyl)methoxy)-2,3-difluorobenzene | 7.0 g | C(=O)CC[C@@H]1CC[C@H](CC1)COC1=C(C(=CC=C1)F)F | C16H20F2O2
